US07432266B2
6-{1-[4-(benzyloxy)phenyl]-1H-pyrazol-5-yl}-3-ethyl-1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-b]pyridine (290 mg, 0.60 mmol) and ethanol (30 mL) were added to a Parr bottle. 10% Pd/C (150 mg, 0.14 mmol) was added, and the mixture was shaken under an atmosphere of hydrogen (45 psi) for 4 hours. The reaction was degassed under reduced pressure, flushed with argon for 5 minutes, filtered through Celite and concentrated to yield 0.23 g 3-{5-[3-ethyl-1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-b]pyridin-6-yl]-1H-pyrazol-1-yl}phenol as an oil. LC/MS (EI) tR 2.87 (Method E), m/z 390.2 (M++1). 1H NMR (CDCl3) δ 1.4 (t, 3H); 1.7 (m, 2H); 2.2 (m, 2H); 3.0 (q, 2H); 3.5 (t, 2H); 4.0 (m, 2H); 4.5 (m, 1H); 6.7-6.9 (m, 3H); 7.0 (s, 1H); 7.2 (m, 1H); 7.3 (d, 2H); 7.7 (s, 1H); 8.0 (m, 1H).

reactant | 6-{1-[4-(benzyloxy)phenyl]-1H-pyrazol-5-yl}-3-ethyl-1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-b]pyridine | 0.60 mmol, 290 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1N=CC=C1C1=CC=C2C(=N1)N(N=C2CC)C2CCOCC2 | C29H29N5O2
reactant | ethanol | 30 mL | C(C)O | C2H6O
catalyst | Pd/C | 0.14 mmol, 150 mg | [Pd] | Pd
product | 3-{5-[3-ethyl-1-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-b]pyridin-6-yl]-1H-pyrazol-1-yl}phenol | 0.23 g | C(C)C1=NN(C2=NC(=CC=C21)C2=CC=NN2C=2C=C(C=CC2)O)C2CCOCC2 | C22H23N5O2
